US05208247
N,N-Diethyl-2-(tetradecyloxy)benzamide
A mixture of 25 g of N,N-diethylsalicylamide, 38.5 ml of 1-bromotetradecane, 22.35 g of potassium carbonate and 400 ml of 2-butanone is heated at reflux temperature for 16 hours. The reaction is cooled, filtered and concentrated in vacuo. The concentrate is dissolved in chloroform, dried and concentrated in vacuo. The residue is purified by column chromatography (silica gel:0-30% ethyl acetate/hexane) to give 42.5 g of the desired product as colorless crystals.

reactant | N,N-diethylsalicylamide | 25 g | C(C)N(C(C=1C(O)=CC=CC1)=O)CC | C11H15NO2
reactant | 1-bromotetradecane | 38.5 ml | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 22.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 400 ml | CC(CC)=O | C4H8O
product | N,N-Diethyl-2-(tetradecyloxy)benzamide | 42.5 g | C(C)N(C(C1=C(C=CC=C1)OCCCCCCCCCCCCCC)=O)CC | C25H43NO2
